US06555552B2
(1R*,2R*,5S*,6R*)-2-Amino-6-hydroxymethyl-1-phenyl-8-azabicyclo[3.2.1]octane
(1R*,2R*,5S*,6R*)-2-Benzylamino-8-benzyl-6-hydroxymethyl-1-phenyl-8-azabicyclo[3.2.1]octane (Description 19; 220 mg, 0.53 mmol) was dissolved in ethanol (5 mL) and treated with 10% palladium on activated charcoal (100 mg), followed by 1,4-cyclohexadiene (1.5 mL). The suspension formed was heated at reflux for 24 hours, then cooled and filtered. The filtrate was concentrated in vacuo, and the oil remaining purified by silica chromatography to yield the title compound as a gum (92 mg, 0.4 mmol).

reactant | (1R*,2R*,5S*,6R*)-2-Benzylamino-8-benzyl-6-hydroxymethyl-1-phenyl-8-azabicyclo[3.2.1]octane | 0.53 mmol, 220 mg | C(C1=CC=CC=C1)N[C@H]1[C@@]2(C[C@H]([C@H](CC1)N2CC2=CC=CC=C2)CO)C2=CC=CC=C2 | C28H32N2O
reactant | 1,4-cyclohexadiene | 1.5 mL | C1=CCC=CC1 | C6H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on activated charcoal | 100 mg | [Pd] | Pd
product | (1R*,2R*,5S*,6R*)-2-Amino-6-hydroxymethyl-1-phenyl-8-azabicyclo[3.2.1]octane | 0.4 mmol, 92 mg | N[C@H]1[C@@]2(C[C@H]([C@H](CC1)N2)CO)C2=CC=CC=C2 | C14H20N2O
